Cost-board low-power solenoid driver (sol 9-16) in the machine: 74HCT574 (4.6 V / 40 R) -> 100R -> IPD90N10S4L06 DPAK (10k pull-down) -> AE-26-1200 coil (10.8 ohm, 25 mH) on ~70 V, S3M tie-back, 40 ms pulse
.include ../models.lib
V50 v50 0 70
VL latch 0 PULSE(0 4.6 1m 20n 20n 40m 100m)
RL latch a 40
Rg a g 100
Rpd g 0 10k
Vdr col cold 0
XQ cold g 0 IPD90N10S4L06
Vcoil v50 v50c 0
Lc col cl 25m
Rc cl v50c 10.8
Dfb col v50 DS3M
.tran 5u 60m
.control
run
let icoil = i(Vcoil)
let ilatch = -i(VL)
let ifet = i(Vdr)
let pfet = v(cold)*ifet
meas tran icoil_max MAX icoil from=1m to=41m
meas tran vce_on AVG v(cold) from=30m to=40m
meas tran vcol_peak MAX v(col) from=41m to=60m
meas tran i_latch AVG ilatch from=30m to=40m
meas tran icoil_off MAX icoil from=56m to=60m
meas tran vgs_on AVG v(g) from=30m to=40m
meas tran p_fet AVG pfet from=30m to=40m
wrdata /home/lolz0r/tng/wpc_power_driver_cost/output/spice/sol_low.csv v(col) icoil v(latch) v(g)
.endc
.end
